US06140385
2-Aminothioxanthone (4.9 g.), anhydrous potassium carbonate (4.5 g.) and di(ethylene-glycol) diethyl ether (150 ml) were heated to reflux (180° C.) and 5.2 g. of 2-bromoethyl ether was added. The reaction was held at reflux for 24 hours, filtered hot and the solvent removed under vacuum. The residue was recrystallized from acetone to give 2-morpholinothioxanthone, mp 166-167° C. Structure was confirmed by IR, NMR, C-13 NMR and MS.

reactant | 2-Aminothioxanthone | 4.9 g | NC1=CC=2C(C3=CC=CC=C3SC2C=C1)=O | C13H9NOS
reactant | potassium carbonate | 4.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromoethyl ether | BrCCOCCBr | C4H8Br2O
product | 2-morpholinothioxanthone | O1CCN(CC1)C1=CC=2C(C3=CC=CC=C3SC2C=C1)=O | C17H15NO2S
